US08614215B2
Intermediate 91: N-[3-(Aminosulfonyl)phenyl]-2-(benzyloxy)acetamide
A suspension of 1-aminobenzene-3-sulfonamide (1 g; 5.8 mmol; 1 eq) in a mixture of acetone (10 mL) and water (10 mL) is stirred at room temperature until complete dissolution. Benzyloxyacetyl chloride (1.4 mL; 8.7 mmol; 1.5 eq) is added at 0° C. followed by the addition of NaHCO3 (1.4 g) over 15 min. After 30 min, the reaction mixture is allowed to stir at room temperature for 2 h. The reaction mixture is then filtered off and the solid residue is washed with MeOH and ACN. The filtrate is concentrated to dryness, affording 1.8 g (97%) of the title compound as a brown foam. 1H NMR (DMSO-d6) δ 8.25 (br s, 1H), 7.81-7.75 (m, 1H), 7.55-7.48 (m, 2H), 7.42-7.28 (m, 8H), 4.62 (s, 2H), 4.13 (s, 2H). HPLC (max plot) 91%; Rt 2.53 min. UPLC/MS: (ES+) 321.2; (ES−) 319.2.

reactant | 1-aminobenzene-3-sulfonamide | 5.8 mmol, 1 g, 1 eq | NC1=CC(=CC=C1)S(=O)(=O)N | C6H8N2O2S
reactant | Benzyloxyacetyl chloride | 8.7 mmol, 1.4 mL, 1.5 eq | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
reactant | NaHCO3 | 1.4 g | C(=O)(O)[O-].[Na+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | water | 10 mL | O | H2O
product | N-[3-(Aminosulfonyl)phenyl]-2-(benzyloxy)acetamide | 1.8 g, 97% | NS(=O)(=O)C=1C=C(C=CC1)NC(COCC1=CC=CC=C1)=O | C15H16N2O4S
